US07361763B2
To (5-bromo-1H-pyrrolo[2,3-b]pyridine-3-yl)-phenyl-methanone (50 mg, 0.167 mmol), 3-hydroxyphenyl boronic acid (30 mg, 0.217 mmol), and dichlorobis (triphenylphosphino)palladium (II) (6 mg, 0.0083 mmol) in a Smith process vial was added 1 mL of a 1:1 mixture of acetonitrile, and a 2 M solution of sodium carbonate in water. The reaction was run in a Personal Chemistry® microwave reactor at 150° C. for 1200 s. The mixture was diluted with DMF (ca. 5 mL) and filtered on a silica plug. The filtrate was adsorbed on silica gel. Purification on silica gel with a gradient of MeOH/dichloromethane afforded [5-(3-hydroxy-phenyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-phenyl-methanone as a yellow solid (37 mg, 71% yield). 1H NMR (500 MHz, DMSO-d6) δ 6.80 (dd, J=2.0, 7.5 Hz, 1H), 7.10 (t, J=2.0 Hz, 1H), 7.14 (d, J=9.0 Hz, 1H), 7.31 (t, J=7.5 Hz, 1H), 7.57 (t, J=7.5 Hz, 2H), 7.65 (t, J=7.5 Hz, 1H), 7.84 (d, J=7.0 Hz, 2H), 8.14 (s, 1H), 8.61 (d, J=2.0 Hz, 1H), 8.68 (d, J=2.0 Hz, 1H), 9.65 (broad s, 1H). MS: m/z 315 (M+H+).

reactant | (5-bromo-1H-pyrrolo[2,3-b]pyridine-3-yl)-phenyl-methanone | 0.167 mmol, 50 mg | BrC=1C=C2C(=NC1)NC=C2C(=O)C2=CC=CC=C2 | C14H9BrN2O
reactant | 3-hydroxyphenyl boronic acid | 0.217 mmol, 30 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | acetonitrile | C(C)#N | C2H3N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | DMF | ca. 5 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis (triphenylphosphino)palladium (II) | 0.0083 mmol, 6 mg | Cl[Pd-2](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
product | [5-(3-hydroxy-phenyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-phenyl-methanone | 37 mg, 71% yield | OC=1C=C(C=CC1)C=1C=C2C(=NC1)NC=C2C(=O)C2=CC=CC=C2 | C20H14N2O2
